US09255096B1
5-Chloro-6,7,8,9-tetrahydrothieno[3,2-c]-2,7-naphthyridine
A mixture of 3a,6,7,8,9,9b-hexahydrothieno[3,2-c]-2,7-naphthyridin-5(4H)-one (2.69 g, 13.04 mmol) in phosphorus oxychloride (70 ml) was heated at 80-85° C. with stirring for 24 hours and allowed to cool to room temperature. The excess solvent was removed in vacuo and the residue was carefully quenched with ice water. The aqueous mixture was treated with solid NaOH until product precipitation ceased (pH ˜5) and the off-white, amorphous solid was collected, washed with water, and dried to give the title compound (2.51 g, 86%).

reactant | 3a,6,7,8,9,9b-hexahydrothieno[3,2-c]-2,7-naphthyridin-5(4H)-one | 13.04 mmol, 2.69 g | S1C=CC2NC(C=3CNCCC3C21)=O | C10H12N2OS
reactant | phosphorus oxychloride | 70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Chloro-6,7,8,9-tetrahydrothieno[3,2-c]-2,7-naphthyridine | 2.51 g, 86% | ClC1=NC2=C(C=3CCNCC13)SC=C2 | C10H9ClN2S
